US04859662
N,N,5-Trimethyl-4-[(2,3,4,9-tetrahydro-9-methyl-4-oxo-1H-carbazol-3-yl)methyl]-1H-imidazole-1-sulphonamide
A solution of dimethylsulphamoyl chloride (0.16 ml) in dry dichloromethane was added to a stirred solution of 1,2,3,9tetrahydro-9-methyl-3[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one (438 mg) and triethylamine (0.25 ml) in dry dichloromethane (30 ml) and the mixture was heated at reflux for 18 h. After cooling the reaction mixture was adsorbed onto FCC silica which was then applied to a column and FCC eluting with System A (150:8:1) gave an oil, which solidified to a powder on trituration with dry hexane (30 ml). This powder was then further purified by dissolution in dry dichloromethane (30 ml) and crystallisation by addition of dry hexane (10 ml) to give the title compound (518 mg), m.p. 122°-124°.

reactant | dimethylsulphamoyl chloride | 0.16 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 1,2,3,9tetrahydro-9-methyl-3[(5-methyl-1H-imidazol-4-yl)methyl]-4H-carbazol-4-one | 438 mg | CN1C2=CC=CC=C2C=2C(C(CCC12)CC=1N=CNC1C)=O | C18H19N3O
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | hexane | 30 ml | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N,N,5-Trimethyl-4-[(2,3,4,9-tetrahydro-9-methyl-4-oxo-1H-carbazol-3-yl)methyl]-1H-imidazole-1-sulphonamide | 518 mg | CN(S(=O)(=O)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C)C | C20H24N4O3S
